US05510345
0.56 ml (4.87 mmoles) of 2,4,6-trichloropyrimidine diluted with 20 ml of tetrahydrofuran is dropwise added to a solution of 2.0 g (5.12 mmoles) of 1- (3α,16α)-eburnamenine-14-carbonyl!piperazine in 50 ml of tetrahydrofuran at 0° C. After stirring at room temperature for 12 hours the reaction mixture is evaporated to dryness. The residue is distributed between 100 ml of chloroform and 25 ml of 5% sodium hydroxide solution. After separation the organic phase is dried, evaporated and the evaporation residue is subjected to chromatography on silica gel column. By using a chloroform/methanol mixture (100:0→99:1) as eluent, the less polar 1- (3α,16α)-eburnamenine-14-carbonyl!-4-(4,6-dichloro-2-pyrimidinyl)piperazine is first obtained in a yield of 0.325 g (12.7%), m.p.: 100°-107° C. (after recrystallization from ether). By further elution the more polar 1- (3α,16α)-eburnamenine-14-carbonyl!-4-(2,4-dichloro-6-pyrimidinyl)piperazine is obtained in a yield of 2.26 g (88.3%), m.p.: 165°-175° C. (after recrystallization from ether).

reactant | 2,4,6-trichloropyrimidine | 4.87 mmoles, 0.56 ml | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(4,6-dichloro-2-pyrimidinyl)piperazine | ClC1=NC(=NC(=C1)Cl)N1CCNCC1 | C8H10Cl2N4
